2160-05-13 06:50:00 Physician Resident Progress Note
Chief Complaint: 46 y/o F with PMH of DM complicated by gastroparesis
   and HTN who presents with coffee-ground emesis and epigastric pain.
   24 Hour Events:
   - Weaned off labetalol drip
   - Initiated reglan
   - Hct stable, without any bleeding. GI deferred EGD due to HTN.
   - opened up gap overnight with poorly controlled sugars. started on
   insulin drip and 1/2 NS
   - wbc climbed to 15 AM labs [**5-13**], cultured, CXR ordered
   - vomited x 1, beige colored per patient; continues to complain of
   abdominal pain and asks for dilaudid rather than morphine.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-5-12**] 12:45 PM
   Heparin Sodium (Prophylaxis) - [**2160-5-13**] 12:00 AM
   Morphine Sulfate - [**2160-5-13**] 06:19 AM
   Other medications:
   Lisinopril 20
   Amlodipine 10
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-5-13**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.7
   HR: 110 (95 - 110) bpm
   BP: 160/93(110) {145/67(87) - 181/102(113)} mmHg
   RR: 14 (11 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  6,204 mL
                                                                    549 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  2,964 mL
                                                                    549 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                  2,000 mL
   Urine:
                                                                    700 mL
                                                                  2,000 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  5,454 mL
                                                                 -1,451 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///16/
   Physical Examination
   GEN: pleasant, sleepy female lying in bed
   HEENT: anicteric, EOMI, OP
 no exudate, no erythema, no cervical LAD
   CHEST: CTAB, no w/r/r
   CV: tachy, no m/r/g
   ABD: NDNT, soft, decreased BS
   EXT: no c/c/e
   NEURO: CN II-XII grossly intact
   DERM: no rashes
   ACCESS: R groin line without warmth or erythema.
   Labs / Radiology
   333 K/uL
   11.6 g/dL
   333 mg/dL
   1.0 mg/dL
   16 mEq/L
   4.0 mEq/L
   14 mg/dL
   108 mEq/L
   139 mEq/L
   33.9 %
   15.1 K/uL
        [image002.jpg]
                             [**2160-5-12**]  05:35 AM
                             [**2160-5-12**]  04:00 PM
                             [**2160-5-13**]  04:28 AM
   WBC
   15.1
   Hct
   34.9
   33.7
   33.9
   Plt
   333
   Cr
   1.1
   1.0
   Glucose
   243
   333
   Other labs: Differential-Neuts:81.6 %, Lymph:15.0 %, Mono:2.8 %,
   Eos:0.3 %, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:1.0 mg/dL
   [**5-11**] BCx x 2 NGTD
   [**5-13**] BCx x 2 NGTD
   Assessment and Plan
   46 y/o F with PMH of DM c/b gastroparesis and HTN who presents with
   coffee-ground emesis and hypertensive urgency, now with mild DKA.
   # DKA: FS poorly controlled with initiation of insulin gtt and
   overnight. New leukocytosis with low grade temperature.  Etiology of AG
   may be [**1-14**] medication non-compliance (history of no DM medications 24
   hours prior to admission), infection (now with low grade fever and
   leukocytosis).
   - continue insulin gtt, start SQ insulin once FS <250
   - q1 hour FS
   - continuous IVFs
   - repeat labs q4 hours and replete lytes prn
   - f/u culture data
   - f/u CXR
   - monitor fever curve
   #. Coffee ground emesis:
   Differential includes [**Doctor First Name **]-[**Doctor Last Name **] tear, gastritis, PUD, AVM,
   malignancy, varices (much less likely given no h/o liver disease).
   Given epigastric pain concern for either gastritis vs. PUD.  Vomiting
   likely in setting of her known gastroparesis vs. possible viral
   gastroenteritis.  LFTs and lipase wnl.  Had witnessed emesis here that
   was gastrocult positive.  Hct currently stable since admission, however
   unknown baseline.  Patient refused NGL in ED.  GI consulted and plan
   for possible EGD.  No NSAID use by history.
   - appreciate GI recs; consider EGD today
   - [**Hospital1 7**] Hct
   - Transfuse if bleeding or < 21, T+S, PIV x2
   - PPI [**Hospital1 **]
   - Anti-emetics prn
   #. Hypertensive urgency: BP elevated and was on labetalol gtt that has
   since been weaned off.  Likely in setting of medication non-compliance
   (takes meds "intermittantly" per ED staff) and vomiting and well as
   pain.
   - continue amlodipine 10 mg and lisinopril 20, titrate medications for
   BP control
   # Gastroparesis
   - standing reglan
   - low dose IV morphine as needed, unclear if her narcotic regimen
   history is accurate
 will need to get OSH records today
   #  Low-grade fevers: Unclear source. CXR negative as well as UA.  LFTs
   normal.  [**Month (only) 51**] be in setting of exacerbation of gastroparesis. Consider
   d/c of CVL and placing PICC as possible source
   - hold on antibiotics given no clear source
   - f/u blood cx, urine cx
   - monitor fever curve
   - d/c femoral line, order PICC
   - culture CVL tip
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-5-12**] 03:36 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2160-05-13 07:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > DKA overnight: ketones in urine
   > Increasing WBC, low grade fever: blood clx
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-5-12**] 12:45 PM
   Heparin Sodium (Prophylaxis) - [**2160-5-13**] 12:00 AM
   Morphine Sulfate - [**2160-5-13**] 06:19 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-5-13**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.7
   HR: 110 (95 - 110) bpm
   BP: 160/93(110) {145/67(87) - 181/94(111)} mmHg
   RR: 14 (11 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  6,204 mL
                                                                    708 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  2,964 mL
                                                                    708 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                  2,000 mL
   Urine:
                                                                    700 mL
                                                                  2,000 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  5,454 mL
                                                                 -1,292 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///16/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   333 K/uL
   333 mg/dL
   1.0 mg/dL
   16 mEq/L
   4.0 mEq/L
   14 mg/dL
   108 mEq/L
   139 mEq/L
   33.9 %
   15.1 K/uL
        [image002.jpg]
                             [**2160-5-12**]  05:35 AM
                             [**2160-5-12**]  04:00 PM
                             [**2160-5-13**]  04:28 AM
   WBC
   15.1
   Hct
   34.9
   33.7
   33.9
   Plt
   333
   Cr
   1.1
   1.0
   Glucose
   243
   333
   Other labs: Differential-Neuts:81.6 %, Lymph:15.0 %, Mono:2.8 %,
   Eos:0.3 %, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:1.0 mg/dL
   Assessment and Plan
   46 yo female with hx of ? UGI bleed in the setting of diabetic
   gastroparesis complicated by HTN urgency in the ED now complicated by
   DKA (with unclear precipitant)
    > DKA: now on insulin gtt, when gap closed will add long acting agents
   (NPH for now). No clear source for DKA: mildy increased WBC, we are
   ruling out for infection. Possible all [**1-14**] under dosing of insulin.
   - NPH 25 units now and recalc evening dose based on SSI
   - D5
 NS at 75 cc/hr when blood sugar below 250
   - follow and replete electrolytes
   -  [**Doctor First Name 5020**] consult for long term management
   - cont reglan, check HA1C
   > UGI Bleed: broad differential will follow Hct and serial exams
   - defer EGD for now given stable Hct.
   > Htn Urgency:
   - Cont home  PO medications as tolerated, if fails will need to
   > Pain control: morphine 2-4 mg IV q 6 hrs
   > Low grade fevers and rising WBC: pending clx on no empiric abx.
   - Will f/u clx.
   - f/u CXR
   > Access: needs central line vs PICC.
    Additional issues per ICU resident
   ICU Care
   Nutrition:
   Comments: Advance diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-5-12**] 03:36 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes

2160-05-14 06:30:00 Physician Resident Progress Note
Chief Complaint: DKA, gastroparesis
   24 Hour Events:
   -BP continues to be stage II hypertension for the most part but by late
   evening in the systolic 180s consistently, HCTZ 25mg daily started as
   pt is African [**Name (NI) 7952**] and likely has salt sensitive hypertension
   -[**Last Name (un) 303**] consult: start glargine 40u sc qhs, they have specified a
   sliding scale, f/u outpatient w/ [**Last Name (un) 303**]
   -WBC improved from 15 to 14
   -PICC line placed
   -Femoral line removed
   -Anion Gap closed (AG = 9)
   medical records obtained, patient w/ chronic pain syndrome on MS contin
   for that, pt / family concerned about narcotic dosing as well as
   withdrawal, started MS contin 30 [**Hospital1 **] (on 60mg tid at home).
   -K 2.9 a.m. of [**5-14**]- ordered 60meq IV KCl and recheck at 1 p.m.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2160-5-13**] 03:30 PM
   Metoprolol - [**2160-5-13**] 06:50 PM
   Pantoprazole (Protonix) - [**2160-5-14**] 01:06 AM
   Heparin Sodium (Prophylaxis) - [**2160-5-14**] 01:06 AM
   Morphine Sulfate - [**2160-5-14**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-5-14**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.7
   HR: 110 (100 - 111) bpm
   BP: 171/98(113) {142/76(93) - 188/106(124)} mmHg
   RR: 13 (11 - 48) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  3,613 mL
                                                                    560 mL
   PO:
                                                                  1,200 mL
             TF:
   IVF:
                                                                  2,388 mL
                                                                    560 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                    800 mL
   Urine:
                                                                  2,400 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,213 mL
                                                                   -240 mL
   Respiratory support
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   GENERAL: Tired appearing, lying in bed with eyes closed
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, tachy. Normal S1, S2. No murmurs, rubs or
   [**Last Name (un) 1011**].  JVP flat
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, tender to palpation below umbilicus, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. CN 2-12 grossly intact. 5/5 strength throughout. [**12-14**]+
   reflexes, equal BL.
   Labs / Radiology
   283 K/uL
   11.7 g/dL
   123 mg/dL
   0.8 mg/dL
   24 mEq/L
   2.9 mEq/L
   6 mg/dL
   105 mEq/L
   138 mEq/L
   33.0 %
   12.1 K/uL
        [image002.jpg]
                             [**2160-5-12**]  05:35 AM
                             [**2160-5-12**]  04:00 PM
                             [**2160-5-13**]  04:28 AM
                             [**2160-5-13**]  08:12 AM
                             [**2160-5-13**]  01:44 PM
                             [**2160-5-14**]  04:31 AM
   WBC
   15.1
   14.0
   12.1
   Hct
   34.9
   33.7
   33.9
   34.6
   33.0
   Plt
   333
   326
   283
   Cr
   1.1
   1.0
   0.9
   0.8
   0.8
   Glucose
   243
   333
   270
   83
   123
   Other labs: PT / PTT / INR:13.7/28.2/1.2, Differential-Neuts:81.6 %,
   Lymph:15.0 %, Mono:2.8 %, Eos:0.3 %, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   46 y/o F with PMH of DM c/b gastroparesis and HTN who presents with
   coffee-ground emesis and hypertensive urgency, now with mild DKA, now
   resolved
   # Uncontrolled DM with resolution of DKA: HgbA1c 14%, off of insulin
   gtt and now on lantus with HISS [**First Name8 (NamePattern2) **] [**Last Name (un) 303**]. Likely DKA [**1-14**] medical
   noncompliance.
   - appreciate [**Last Name (un) 303**] recs
   - continue Lantus and HISS
   - follow up with [**Last Name (un) 303**], needs PCP
   .
   #. Coffee ground emesis:  Hct stable
   - appreciate GI recs
 EGD tomorrow likely, NPO after MN
   - daily Hct
   - PPI [**Hospital1 **]
   - Anti-emetics prn
   #. Hypertensive urgency: spiked to SBP 180 overnight, but off labetalol
   gtt for 24 hours
   - continue amlodipine, HCTZ
   - increase lisinopril 40 daily
   .
   # Gastroparesis
   -continue morphine prn with MS Contin 30 mg po BID
   - ADAT
   # Pain control: has been on MS Contin 60 mg TID in past with medical
   records from [**State 3036**]
   - continue morphine prn with MS Contin 30 mg po BID to avoid opioid
   withdrawal
   - pt will likely need pain management at [**Hospital1 19**] as outpatient
   #  Low-grade fevers: no infectious source, leukocytosis improving,
   likely reactive in setting of DKA.
   - f/u cultures
   - follow WBC count
   - trend fever curve
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2160-5-13**] 06:39 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: To Floor

2160-05-14 07:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2160-5-13**] 06:34 PM
 PICC LINE - START [**2160-5-13**] 06:39 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2160-5-13**] 03:30 PM
   Metoprolol - [**2160-5-13**] 06:50 PM
   Pantoprazole (Protonix) - [**2160-5-14**] 01:06 AM
   Heparin Sodium (Prophylaxis) - [**2160-5-14**] 01:06 AM
   Morphine Sulfate - [**2160-5-14**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-5-14**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.7
   HR: 110 (100 - 111) bpm
   BP: 171/98(113) {142/76(93) - 188/106(124)} mmHg
   RR: 13 (11 - 48) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  3,613 mL
                                                                    680 mL
   PO:
                                                                  1,200 mL
             TF:
   IVF:
                                                                  2,388 mL
                                                                    680 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                    800 mL
   Urine:
                                                                  2,400 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,213 mL
                                                                   -120 mL
   Respiratory support
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: Sclera edema, icteric sclera
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.7 g/dL
   283 K/uL
   123 mg/dL
   0.8 mg/dL
   24 mEq/L
   2.9 mEq/L
   6 mg/dL
   105 mEq/L
   138 mEq/L
   33.0 %
   12.1 K/uL
        [image002.jpg]
                             [**2160-5-12**]  05:35 AM
                             [**2160-5-12**]  04:00 PM
                             [**2160-5-13**]  04:28 AM
                             [**2160-5-13**]  08:12 AM
                             [**2160-5-13**]  01:44 PM
                             [**2160-5-14**]  04:31 AM
   WBC
   15.1
   14.0
   12.1
   Hct
   34.9
   33.7
   33.9
   34.6
   33.0
   Plt
   333
   326
   283
   Cr
   1.1
   1.0
   0.9
   0.8
   0.8
   Glucose
   243
   333
   270
   83
   123
   Other labs: PT / PTT / INR:13.7/28.2/1.2, Differential-Neuts:81.6 %,
   Lymph:15.0 %, Mono:2.8 %, Eos:0.3 %, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   46 yo female with hx of ? UGI bleed in the setting of diabetic
   gastroparesis complicated by HTN urgency in the ED now complicated by
   DKA (with unclear precipitant)
   > DKA: now on insulin gtt, when gap closed will add long acting agents
   (NPH for now). No clear source for DKA: mildy increased WBC, we are
   ruling out for infection. Possible all [**1-14**] under dosing of insulin.
   - NPH 25 units now and recalc evening dose based on SSI
   - D5
 NS at 75 cc/hr when blood sugar below 250
   - follow and replete electrolytes
   -  [**Last Name (un) 303**] consult for long term management
   - cont reglan, check HA1C
   > UGI Bleed: broad differential will follow Hct and serial exams
   - defer EGD for now given stable Hct.
    > Htn Urgency:
   - Cont home  PO medications as tolerated, if fails will need to
   > Pain control: morphine 2-4 mg IV q 6 hrs
    > Low grade fevers and rising WBC: pending clx on no empiric abx.
   - Will f/u clx.
   - f/u CXR
    Additional issues per ICU resident
   ICU Care
   Nutrition:
   Comments: Advance diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2160-5-13**] 06:39 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes